* gnetlist -g spice-sdb -o bfwr.net bfwr.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ../models/1N4007.mod vvvvvvvv
.MODEL 1N4007 D(IS=76.9p RS=42.0m BV=1.00k IBV=5.00u CJO=26.5p  M=0.333 N=1.45 TT=4.32u)
*^^^^^^^^  End of included SPICE model from ../models/1N4007.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
R2 0 1 19  
.INCLUDE ./bfwr.cmd
.options TEMP=25
V2 2 3 SIN(0 35.8 50)
D8 3 1 1N4007 
D6 0 3 1N4007 
D4 2 1 1N4007 
D2 0 2 1N4007 
C2 0 1 1000u  
.end
